US08314097B2
D. 5-(2-Bromophenyl)-5,6,7,8,-tetrahydro-imidazo[1,5-a]pyridine
To a slurry of 1-(2-bromobenzyl)-5-(3-chloropropyl)-1H-imidazole (0.662 g, 2.12 mmol) and TMEDA (0.683 mL, 4.55 mmol) in THF (10 mL) at −78° C. is added LDA (1.8 M in heptane/THF/ethylbenzene, 2.5 mL, 4.5 mmol) and the yellow clear solution is stirred at −78° C. After 3.5 hr, the reaction is quenched by saturated aqueous NH4Cl, and the mixture is partitioned between EtOAc and saturated aqueous NaHCO3. The organic layer is washed with brine, dried and concentrated to give an oil, which is subjected to flash chromatography (silica gel) eluting with MeOH:CH2Cl2 to yield the desired compound. MS (ESI) m/z 277 (M+H).

reactant | 1-(2-bromobenzyl)-5-(3-chloropropyl)-1H-imidazole | 2.12 mmol, 0.662 g | BrC1=C(CN2C=NC=C2CCCCl)C=CC=C1 | C13H14BrClN2
reactant | TMEDA | 4.55 mmol, 0.683 mL | CN(C)CCN(C)C | C6H16N2
reactant | LDA | 4.5 mmol, 1.8 M, 2.5 mL | [Li+].CC(C)[N-]C(C)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-(2-Bromophenyl)-5,6,7,8,-tetrahydro-imidazo[1,5-a]pyridine | BrC1=C(C=CC=C1)C1CCCC=2N1C=NC2 | C13H13BrN2
